US07919519B2
To a stirred solution of 1-(benzofuran-5-yl)-1-phenylpropan-1-ol (3.14 g, 12.4 mmol) and triethylsilane (2.39 mL, 14.9 mmol) in DCM (10 mL) under nitrogen at 0° C. was added trifluoroacetic acid (4.62 mL, 62.2 mmol) dropwise via syringe. The reaction mixture was stirred at 0° C. for 3 h. Additional triethylsilane (2.39 mL, 14.9 mmol) followed by trifluoroacetic acid (4.62 mL, 62.2 mmol) were added via syringe, and the reaction was brought to room temperature and stirred for 2 h. The reaction mixture was quenched with 1M aqueous NaOH. DCM was added, and the aqueous layer was separated and extracted again with DCM. The combined organic layers were dried (MgSO4) and concentrated to give a crude oil. The crude product was purified by silica flash chromatography to give 5-(1-phenylpropyl)-benzofuran as a transparent oil. MS (ESI) m/z: Calculated: 236.1; Observed: 237.2 (M++1).

reactant | 1-(benzofuran-5-yl)-1-phenylpropan-1-ol | 12.4 mmol, 3.14 g | O1C=CC2=C1C=CC(=C2)C(CC)(O)C2=CC=CC=C2 | C17H16O2
reactant | triethylsilane | 14.9 mmol, 2.39 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 62.2 mmol, 4.62 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 14.9 mmol, 2.39 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 62.2 mmol, 4.62 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-(1-phenylpropyl)-benzofuran | C1(=CC=CC=C1)C(CC)C=1C=CC2=C(C=CO2)C1 | C17H16O
